CSN N0 N4
CSP N1 N2
S1 (N2 N4) switch_ideal
S2 (VCM N2) switch_ideal
S3 (VIP N1) switch_ideal
S4 (VIN N0) switch_ideal
S5 (VCRP2 N1) switch_ideal
S6 (VCRN2 N0) switch_ideal
S7 (VCM N4) switch_ideal
A1 (N2 N4 DN DP) amplifier
